US08278331B2
A solution of 5-(4-t-butoxycarbonylamino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester (0.5 g, 1.3 mmol) in THF (2.0 ml) was added dropwise to a 0° C. suspension of LiAlH4 (0.1 g, 2.6 mmol) in dry THF (5.0 ml). The reaction was stirred at 0° C. for 2 h and was quenched with 10% aqueous NaOH (1.0 mL). The mixture was filtered and the filtrate was concentrated in vacuo to give [4-(6-hydroxymethyl-pyridin-3-yloxy)-phenyl]-carbamic acid t-butyl ester (0.38 g, 92% yield). MS (ESI) m/z: (M+H+) 317.2.

reactant | 5-(4-t-butoxycarbonylamino-phenoxy)-pyridine-2-carboxylic acid t-butyl ester | 1.3 mmol, 0.5 g | C(C)(C)(C)OC(=O)C1=NC=C(C=C1)OC1=CC=C(C=C1)NC(=O)OC(C)(C)C | C21H26N2O5
reactant | LiAlH4 | 2.6 mmol, 0.1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
product | [4-(6-hydroxymethyl-pyridin-3-yloxy)-phenyl]-carbamic acid t-butyl ester | 0.38 g, 92% yield | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC=1C=NC(=CC1)CO)=O | C17H20N2O4
